US05114960
5 g (0.012 mol) of methyl 3-(3,4-dichlorophenyl)-3a,5,6,7,8,8a-hexahydro-8a-pyrrolidino-4H-cyclohept[d]isoxazole-7-carboxylate were dissolved in a mixture of 5 ml of water, 5 ml of concentrated sulfuric acid and 5 ml of glacial acetic acid and heated at 120° C. for 1.5 hours. The mixture was cooled, whereupon the crystals which formed were filtered off and washed firstly with glacial acetic acid and then with water. After drying in a vacuum and crystallization from methanol, there was obtained 0.7 g of 3-(3,4-dichlorophenyl)-5,6,7,8-tetrahydro-4H-cyclohept[d]isoxazole-7-carboxylic acid of melting point 183°-185° C.

reactant | methyl 3-(3,4-dichlorophenyl)-3a,5,6,7,8,8a-hexahydro-8a-pyrrolidino-4H-cyclohept[d]isoxazole-7-carboxylate | 0.012 mol, 5 g | ClC=1C=C(C=CC1Cl)C1=NOC2(C1CCCC(C2)C(=O)OC)N2CCCC2 | C20H24Cl2N2O3
solvent | water | 5 ml | O | H2O
solvent | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 3-(3,4-dichlorophenyl)-5,6,7,8-tetrahydro-4H-cyclohept[d]isoxazole-7-carboxylic acid | 0.7 g | ClC=1C=C(C=CC1Cl)C1=NOC2=C1CCCC(C2)C(=O)O | C15H13Cl2NO3
